US06664256B1
Preparation of 3-(4-methoxyphenyl)-6-(2,3,4,5,6-pentafluorophenoxy)-4-phenylpyridazine
In a similar manner as in Example 2, 6-chloro-3-(4-methoxyphenyl)-4-phenylpyridazine (200 mg, 0.675 mmol) and 2,3,4,5,6-pentafluorophenol were reacted as starting materials at 150° C. for 48 hours and post-treatment was then conducted, whereby the title compound was obtained as a colorless crystalline powder (91.2 mg, 30.5%). Melting point: 133.1-133.9° C. (ethyl acetate-hexane).

reactant | 6-chloro-3-(4-methoxyphenyl)-4-phenylpyridazine | 0.675 mmol, 200 mg | ClC1=CC(=C(N=N1)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C17H13ClN2O
reactant | 2,3,4,5,6-pentafluorophenol | FC1=C(C(=C(C(=C1F)F)F)F)O | C6HF5O
product | 3-(4-methoxyphenyl)-6-(2,3,4,5,6-pentafluorophenoxy)-4-phenylpyridazine | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=CC=C1)OC1=C(C(=C(C(=C1F)F)F)F)F | C23H13F5N2O2
